US04659716
8-Chloro-6,11-dihydro-11-(4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine acetic acid salt
To 12 grams of sodium hydroxide in 30 mL ethyl alcohol (70%) add 6 grams of 8-chloro-6,11-dihydro-11-(1-ethoxy-carbonyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine (prepared as described in U.S. Pat. No. 4,282,233) and reflux with stirring for 24 hours. After about the first 6-8 hours an additional 30 mL of 70% ethyl alcohol may be added.

reactant | sodium hydroxide | 12 grams | [OH-].[Na+]
reactant | 8-chloro-6,11-dihydro-11-(1-ethoxy-carbonyl-4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 6 grams | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CC(N(CC2)OCC)=C=O)C1 | C22H21ClN2O2
solvent | ethyl alcohol | 30 mL | C(C)O | C2H6O
solvent | ethyl alcohol | 30 mL | C(C)O | C2H6O
product | 8-Chloro-6,11-dihydro-11-(4-piperidylidene)-5H-benzo[5,6]cyclohepta[1,2-b]pyridine acetic acid salt | C(C)(=O)O.ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | InChI=1S/C19H19ClN2.C2H4O2/c20-16-5-6-17-15(12-16)4-3-14-2-1-9-22-19(14)18(17)13-7-10-21-11-8-13;1-2(3)4/h1-2,5-6,9,12,21H,3-4,7-8,10-11H2;1H3,(H,3,4)
